Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sleepiness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo man with cerebral palsy s/p VP shunt placement, presenting 
as transfer from ___ with c/f increased drainage from 
ventricular shunt based on CT head obtained when patient was 
noted to be increasingly sleepy. Patient was noted at group home 
to be more "sleepy" than baseline. Otherwise no focal localizing 
signs or symptoms, but patient is notably nonverbal at baseline. 
Denies pain, but difficult to assess further in-depth.
Pt was initially sent to ___, where CT showed "bilateral 
parietal approach ventriculostomy catheters in place as 
described above. The left ventriculostomy catheter terminates 
within the right basal ganglia. This appearance is stable 
compared to prior exam in ___. The ventricles are slitlike in 
appearance with bilateral subdural hygromas raising concern for 
over shunting." Patient is followed at ___ for his ventricular 
shunt, but was directed to ___ because they were not accepting 
pts.
In the ED, initial vitals:
98.0; 105; 133/80; 18; 96% RA
- Labs notable for:
CBC: 11.4>13.5/41.5<284
INR: 1.2
Cr: 0.8
Bicarb: 21
- Imaging notable for:
Shunt series:
IMPRESSION:
No evidence of discontinuity along the course of the shunts.
CXR:
IMPRESSION:
No definite acute cardiopulmonary process.
- Patient given: No additional medications
- Vitals prior to transfer:
97.4; 97; 122/83; 16; 100% RA
On arrival to the floor, pt was nonverbal. He did not 
consistently follow commands or nod in response to questions, 
either in ___ or ___. No records from outside facilities 
were sent with patient. I attempted to contact his group home, 
but the overnight staff member I spoke with was unable to 
provide additional information, and her manager did not answer 
the phone when called. I did have a discussion with neurosurgery 
who did not feel that the collapsed ventricles or associated 
bilateraly subdural hygromas could account for his symptoms, as 
they were not compressing any brain structures. They recommended 
discussion with his primary neurosurgical team. They also 
recommended possible neurology consult in case pt was having 
seizures.
 
Past Medical History:
Cerebral palsy s/p VP shunt at ___ (unclear date)
Spina bifida
Mental retardation
Constipation
Urinary incontinence due to severe physical disability
Vitamin D deficiency

 
Social History:
___
Family History:
Patient not able to inform us
 
Physical Exam:
======================
ADMISSION EXAM:
======================
Vitals: 97.9; 123/81; 77; 18; 98 RA
General: Pt tracks with eyes. Nonverbal. Does not consistently 
follow commands
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, mildly-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
Ext: Poorly developed arms and legs. Warm, well perfused, no 
cyanosis or edema
Skin: Warm and dry
Neuro: Unable to fully assess. ___ strength in Right hand.

======================
DISCHARGE EXAM:
======================
Vitals: 97.3 144 / 92 88 18 99 ra 
General: Alert ___ year old man in NAD. Spontaneoulsy moving 
right arm, otherwise does not move other limbs much at baseline. 
Pt tracks with eyes. Nonverbal. Following commands for this 
provider, including squeezing his right hand when asked. Program 
manager at bedside.
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, mildly-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
Ext: Poorly developed arms and legs. Warm, well perfused, no 
cyanosis or edema
Skin: Warm and dry
Neuro:  ___ strength in right hand. EOMI, follows provider's 
finger with both eyes and hand. No dysmetria noted
 
Pertinent Results:
=============================
ADMISSION LABS:
=============================

___ 06:55PM   WBC-11.4* RBC-4.76 HGB-13.5* HCT-41.5 MCV-87 
MCH-28.4 MCHC-32.5 RDW-13.6 RDWSD-42.9
___ 06:55PM   NEUTS-71.1* ___ MONOS-6.4 EOS-0.4* 
BASOS-0.6 IM ___ AbsNeut-8.07* AbsLymp-2.41 AbsMono-0.73 
AbsEos-0.05 AbsBaso-0.07
___ 06:55PM   PLT COUNT-284
___ 06:55PM   ___ PTT-28.3 ___

___ 09:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:19PM URINE  RBC-6* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0

___ 09:30PM   GLUCOSE-75 UREA N-14 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-21* ANION GAP-20

==========================
DISCHARGE LABS:
==========================

___ 10:45AM BLOOD WBC-10.0 RBC-5.56 Hgb-15.7 Hct-49.6 
MCV-89 MCH-28.2 MCHC-31.7* RDW-13.1 RDWSD-43.1 Plt ___
___ 10:45AM BLOOD Glucose-100 UreaN-14 Creat-0.9 Na-140 
K-6.6* Cl-102 HCO3-28 AnGap-17  **** GROSSLY HEMOLYZED -- NOT 
REPEATED AS DISTRESSING FOR PATIENT TO HAVE LABS DRAWN ****
___ 10:45AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.4

=================
IMAGING:
=================
CXR ___:
IMPRESSION:
No definite acute cardiopulmonary process.

SHUNT SERIES ___: 
FINDINGS:  Bilateral parietal approach ventriculostomy catheters 
are noted.  There is no discontinuity along the course of the 
catheters.  The left-sided catheter terminates in the upper mid 
abdomen.  On the right, the catheter terminates in the right mid 
abdomen.  Abandoned shunt catheter seen in the right neck and 
chest wall. Lumbar levoscoliosis is noted.  No acute osseous 
abnormalities. 
  
IMPRESSION:  No evidence of discontinuity along the course of 
the shunts. 

CT Head ___ (from ___
Bilateral parietal approach ventriculostomy catheters in place 
as described above. The left ventriculostomy catheter terminates 
within the right basal ganglia. This appearance is stable 
compared to prior exam in ___. The ventricles are slitlike in 
appearance with bilateral subdural hygromas raising concern for 
over shunting.

 
Brief Hospital Course:
Mr. ___ is a very pleasant ___ yo man with cerebral palsy s/p 
VP shunt placement and history of seizures who presented with 1 
day of increased somnolence and decreased interaction per 
caretakers.  

# ENCEPHALOPATHY: Per discussion patient woke up on the morning 
of ___ and seemed somnolent, with notable "shivering." The 
original plan was to send Mr. ___ to ___ 
___ where his primary neurologist and neurosurgeons are but 
ambulance had to be redirected as the hospital was on divert. 
Overnight on hospital day 1 patient was seen by our 
neurosurgeons who noted bilateral hygromas and worried that Mr. 
___ VP shunt may be over-draining, but they did not feel 
that this would account for acute lethargy. Infectious work-up 
including blood cultures and urine cultures were negative and 
patient did not have a fever while here. WBC was 11, but 
decreased to 10 at time of discharge without intervention. 
Electrolytes were all stable on presentation and vitals were all 
within normal limits. By the morning of ___ patient was felt 
to be at his baseline per the manager at his group home. In 
discussion with patient's outpatient neurologist, Dr. ___, 
___ Keppra dose was increased to 1000 mg BID and plan was made 
for close outpatient primary care and neurology follow up.

# Cerebral Palsy:
- Trend MS
- Increased keppra dose to 1000mg BID 

# VP shunt: Needs follow up with neurology as outpatient and 
plan for anesthasized evaluation of VP shunt by neurosurgery at 
___. 

#Constipation:
-Continue home constipation regimen

TRANSITIONAL ISSUES
==============
- Patient has follow up with Dr. ___ on ___ at 10:30am
- Please ensure that patient has follow up with Dr. ___ in 
1 week after discharge. Per neurosurgery evaluation at ___, he 
needs follow up closely after discharge. 
- Increased home keppra from 750 mg BID to ___ mg BID with aid 
of Dr. ___, patient's neurologist. He should remain on 
this dose until neurology follow up.
- Head CT this hospital stay showed bilateral hygromas and was 
concerning for over shunting. The hygromas are small and are not 
causing mass effect; it was deemed that this was not the likely 
cause of his lethargy, but he should follow up on these findings 
within one week with outpatient neurology. 
- Per manager at patient's group home, he is overdue to have his 
VP shunt examined by his neurosurgery team at ___. This 
will likely require general anesthesia. In light of recent 
hospitalization we feel that this should be done relatively 
soon.
- Please resume prior physical activity. No new restrictions 
placed. 

# CONTACT: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 750 mg PO BID 
2. GuaiFENesin 10 mL PO Q4H:PRN Cough 
3. Docusate Sodium 100 mg PO DAILY 
4. Senna 8.6 mg PO DAILY 
5. Polyethylene Glycol 17 g PO BID:PRN Constipation 
6. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
7. Milk of Magnesia 30 mL PO PRN constipation 
8. Ketoconazole 2%  1 Appl TP BID 
9. Miconazole Powder 2% 1 Appl TP QHS:PRN Rash 
10. LORazepam ___ mg PO PRN 1 hour prior to dental work or lab 
draws 
11. PeriGuard (vit A-D3-E-aloe ___ Small amount  topical 
PRN 
12. Bacitracin Ointment 1 Appl TP BID:PRN Infection/cuts/sores 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  PeriGuard (vit A-D3-E-aloe ___ 1  application topical 
PRN rash  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Bacitracin Ointment 1 Appl TP BID:PRN Infection/cuts/sores  
5.  Docusate Sodium 100 mg PO DAILY  
6.  GuaiFENesin 10 mL PO Q4H:PRN Cough  
7.  Ketoconazole 2%  1 Appl TP BID  
8.  LORazepam ___ mg PO PRN 1 hour prior to dental work or lab 
draws  
9.  Miconazole Powder 2% 1 Appl TP QHS:PRN Rash  
10.  Milk of Magnesia 30 mL PO PRN constipation  
11.  Polyethylene Glycol 17 g PO BID:PRN Constipation  
12.  Senna 8.6 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
=====
Encephalopathy 
Epilepsy

Secondary
======
Cerebral palsy with VP shunt
Spina Bifida
Constipation

 
Discharge Condition:
Mental Status: Tracks providers, follows basic commands. 
Non-verbal.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you here at the ___ 
___. You came to us after staff at your 
group home felt that you looked sleepier and did not seem like 
your normal cheerful self. We sent several tests to rule out 
possible causes of altered mental status including blood 
cultures and chest x-ray to rule out infection and a CT scan of 
your head to make sure your shunt was not blocked. Everything 
came back reassuring and you quickly returned to your normal 
self. We spoke to your neurologist, who recommended that we 
increase your keppra dose to 1000mg twice a day. 

Please take all of your medications as described in this 
discharge summary. If you experience any of the danger signs 
below, call your primary care doctor or come to the emergency 
department immediately.

Best Wishes,

Your ___ Care Team
 
Followup Instructions:
___